US07148226B2
(R)N-[1-(4-Bromo-phenyl)-ethyl]-malonamic acid ethyl ester
To a magnetically stirred solution of (R)-(+)-1-(4-bromophenyl)ethylamine (0.51 g, 2.55 mmol) in anhydrous CH2Cl2 under argon and cooled to 0° C., were added ethyl hydrogen malonate (0.4 g, 3.06 mmol) EDC.HCl (0.58 g, 3.06 mmol) and HOBt (0.41 g, 3.06 mmol). The resulting solution was stirred at 25° C. overnight. CH2Cl2 was evaporate and residue partitioned between EtOAC and 1 N HCl. The organic layer was washed with H2O, brine and dried over Na2SO4. The solvent was removed in vacuo and the residue was purified by flash column chromatography (40% EtOAc in hexanes) to provide the desired product (0.57 g, 71%) as a white solid.

reactant | (R)-(+)-1-(4-bromophenyl)ethylamine | 2.55 mmol, 0.51 g | BrC1=CC=C(C=C1)[C@@H](C)N | C8H10BrN
reactant | ethyl hydrogen malonate | 3.06 mmol, 0.4 g | C(CC(=O)O)(=O)OCC | C5H8O4
reactant | HOBt | 3.06 mmol, 0.41 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (R)N-[1-(4-Bromo-phenyl)-ethyl]-malonamic acid ethyl ester | 0.57 g, 71% | C(C)OC(CC(=O)N[C@H](C)C1=CC=C(C=C1)Br)=O | C13H16BrNO3
